US06414011B1
2-Cyano-4-[4-(2,4-difluorophenoxy)phenyl]-1-methyl-1H-imidazole. A mixture of crude 4-[4-(2,4-difluorophenoxy)phenyl]-1H-imidazole (prepared from 4.14 g of 2-bromo-1-[4-(2,4-difluorophenoxy)phenyl]ethanone and 35 mL of formamide as described above), solid KOH (2.57 g) and MeI (1 mL) was heated at reflux overnight. After filtration, the reaction was concentrated to dryness and the residue was purified by flash chromatography, affording 4-[4-(2,4-difluorophenoxy)phenyl]-1-methyl-1H-imidazole as a solid. A solution of 4-(dimethylamino)pyridine (1.34 g, 10.9 mmol) in 30 mL of dry DMF at −10° C. was added cyanogen bromide (5.0 M solution in MeCN; 2.1 mL, 10.5 mmol), giving a pale yellow precipitate. Solid 4-[4-(2,4-difluorophenoxy)phenyl]-1-methyl-1H-imidazole (1.39 g, 4.86 mmol) was added and the reaction was heated at 60° C. overnight. The reaction was allowed to cool to room temperature and added to water and EtOAc. The separated aqueous layer was extracted twice with EtOAc and the pooled organic layers were washed with water (3×), dried (Na2SO4), filtered and concentrated. The oily residue was purified by flash chromatography (gradient from 8.5/2.5 to 7/3 hexane/EtOAc) affording 713 mg of 2-cyano-4-[4-(2,4-difluorophenoxy)phenyl]-1-methyl-1H-imidazole as a solid, mp 109-110° C. (Rf 0.42, 7/3 hexane/EtOAc) along with 122 mg of 4-cyano-4-[4-(2,4-difluorophenoxy)phenyl]-1-methyl-1H-imidazole, mp 169-170° C. (Rf 0.32, 7/3 hexane/EtOAc). 1H NMR (2-cyano; CDCl3): δ7.65 (d, 2H, J=9.0 Hz), 7.16 (s, 1H), 7.06 (dt, 1H, J=9.3, 5.4 Hz), 6.93 (d, 2H, J=8.7 Hz), 6.98-6.80 (m, 2H), 3.65 (s, 3H). 1H NMR (4-cyano; CDCl3): δ7.69 (d, 2H, J=8.7 Hz), 7.27 (s, 1H), 7.09 (dt, J=8.7, 5.7 Hz), 6.96 (d, 2H, J=8.7 Hz), 7.00-6.82 (m, 2H), 3.90 (s, 3H).

reactant | 2-Cyano-4-[4-(2,4-difluorophenoxy)phenyl]-1-methyl-1H-imidazole | C(#N)C=1N(C=C(N1)C1=CC=C(C=C1)OC1=C(C=C(C=C1)F)F)C | C17H11F2N3O
reactant | 4-[4-(2,4-difluorophenoxy)phenyl]-1H-imidazole | 35 mL, 4.14 g | FC1=C(OC2=CC=C(C=C2)C=2N=CNC2)C=CC(=C1)F | C15H10F2N2O
reactant | KOH | 2.57 g | [OH-].[K+]
reactant | MeI | 1 mL | CI | CH3I
product | 4-[4-(2,4-difluorophenoxy)phenyl]-1-methyl-1H-imidazole | FC1=C(OC2=CC=C(C=C2)C=2N=CN(C2)C)C=CC(=C1)F | C16H12F2N2O
